US07795444B2
Preparation of (S)—N-[1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl]-2,3-diphenyl-propanamide (11):
To a solution of 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide, 3, (0.95 g, 2.65 mmol), diphenylpropionic acid (0.60 g, 2.65 mmol) and 1-hydroxybenzotriazole (HOBt) (0.180 g, 1.33 mmol) in DMF (10 mL) at 0°, is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (0.502 g, 2.62 mmol) followed by triethylamine (1.1 mL, 7.95 mmol). The mixture is stirred at 0° C. for 30 minutes then at room temperature overnight. The reaction mixture is diluted with water and extracted with EtOAc. The combined organic phase is washed with 1 N aqueous HCl, 5% aqueous NaHCO3, water and brine, and dried over Na2SO4. The solvent is removed in vacuo to afford 0.903 g (70% yield) of the desired product which is used without further purification.

reactant | 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide | Br.C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N
reactant | diphenylpropionic acid | 2.65 mmol, 0.95 g | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
reactant | 1-hydroxybenzotriazole | 1.33 mmol, 0.180 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 2.62 mmol, 0.502 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 7.95 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)—N-[1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl]-2,3-diphenyl-propanamide | 0.903 g, 70% yield | C(C)C=1N=C(SC1)C(CC1=CC=C(C=C1)[N+](=O)[O-])NC([C@@H](CC1=CC=CC=C1)C1=CC=CC=C1)=O | C28H27N3O3S
